US05198208
(b) 2-(2-Benzyloxyethyl)-3-oxo-1,7-bis(triphenylmethyl)-1,4,7-triazaheptane
2-(2-Hydroxyethyl)-3-oxo-1,7-bis(triphenylmethyl) -1,4,7-triazaheptane (10 mmol) is reacted as described by S. Czernecki et al. Tetr. Lett. (1976) 3535 with 80% sodium hydride (11 mmol) and benzylbromide (10 mmol) catalysed by tetrabutyl ammonium iodide (1 mmol) for 24 hours at ambient temperature (in 100 ml dry THF). 2-(2-Benzyloxyethyl)-3-oxo-1,7-bis(triphenylmethyl)-1,4,7-triazaheptane is purified by chromatography on silica.

reactant | 2-(2-Hydroxyethyl)-3-oxo-1,7-bis(triphenylmethyl) -1,4,7-triazaheptane | 10 mmol | OCCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(NCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C44H43N3O2
reactant | sodium hydride | 11 mmol | [H-].[Na+]
reactant | benzylbromide | 10 mmol | C(C1=CC=CC=C1)Br | C7H7Br
catalyst | tetrabutyl ammonium iodide | 1 mmol | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(2-Benzyloxyethyl)-3-oxo-1,7-bis(triphenylmethyl)-1,4,7-triazaheptane | C(C1=CC=CC=C1)OCCC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(NCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C51H49N3O2
